US07459448B2
4-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-butyric acid (I-19)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 4-guanidino butyric acid were converted to I-19 (6%): HRMS Calcd. for C16H15ClN4O3: 347.091, Found 347.092.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 4-guanidino butyric acid | N(C(=N)N)CCCC(=O)O | C5H11N3O2
product | 4-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-butyric acid | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NCCCC(=O)O)=O)C1 | C16H15ClN4O3
